US08048881B2
18.1. 4-{(S)-3-cyano-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester
4-{(S)-3-carbamoyl-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester (67 mg) was dissolved in DCM (2 ml) under argon and Burgess reagent (103 mg) was added portionwise. After 1 h stirring at RT, the solvent was removed and the crude was purified by preparative TLC (EA/Hept 1/1) to offer 35 mg of the desired compound.

reactant | 4-{(S)-3-carbamoyl-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | 67 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(N)=O)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C27H34N6O6
reactant | Burgess reagent | 103 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-{(S)-3-cyano-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC#N)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C27H32N6O5
